US04039543
A suspension of 3.8 g. of sodium hydride (50% suspension in oil) and 11.2 g of dimethylsulfone in 40 ml. of dimethylsulfoxide was stirred with the exclusion of moisture for 2 hours at 50° C. 9.4 G. of methyl 4-chloro-3,5-bis-(N-methylacetamido)benzoate were then added, and the mixture was stirred at 80° C. for 3 hours. The solution was diluted with 200 ml. of ice water, the precipitated material extracted with ethyl acetate, the ethyl acetate solution purified over aluminum oxide, evaporated and the residue recrystallized from methanol, there being obtained 4'-chloro-3',5'-bis(methylamino)-2-methylsulfonylacetophenone having a melting point of 165°-167° C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfone | 11.2 g | CS(=O)(=O)C | C2H6O2S
reactant | methyl 4-chloro-3,5-bis-(N-methylacetamido)benzoate | ClC1=C(C=C(C(=O)OC)C=C1N(C(C)=O)C)N(C(C)=O)C | C14H17ClN2O4
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4'-chloro-3',5'-bis(methylamino)-2-methylsulfonylacetophenone | ClC1=C(C=C(C=C1NC)C(CS(=O)(=O)C)=O)NC | C11H15ClN2O3S
